US07923568B2
To a solution of 2-benzyl-7-(2-fluoroethyl)-7-(3-oxobutyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one (10.8 g, 28.6 mmol) in 300 mL of toluene were added pyrrolidine (2.4 mL, 28.6 mmol) and acetic acid (1.64 mL, 28.6 mmol) and the solution was heated at 90° C. under nitrogen. After 15 hours, the solution was cooled to room temperature and partitioned between EtOAc and water. The organic phase was washed with 5% aqueous NaHCO3 and brine and dried over MgSO4. Evaporation of the solvent under vacuum gave a brown oil which was purified by chromatography on silica gel (1:2 to 1:1 EtOAc/hexanes) to give a sticky orange solid. The solid was dissolved in heptane-dichloromethane and then most of the dichloromethane was evaporated under reduced pressure. The resulting precipitated solid was isolated by filtration to give 2-benzyl-9a-(2-fluoroethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H) -one.

reactant | 2-benzyl-7-(2-fluoroethyl)-7-(3-oxobutyl)-7,8-dihydrocyclopenta[e]indazol-6(2H)-one | 28.6 mmol, 10.8 g | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC(C3=O)(CCC(C)=O)CCF | C23H23FN2O2
reactant | pyrrolidine | 28.6 mmol, 2.4 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 28.6 mmol, 1.64 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | heptane dichloromethane | CCCCCCC.ClCCl
product | 2-benzyl-9a-(2-fluoroethyl)-8,9,9a,10-tetrahydroindeno[2,1-e]indazol-7(2H) -one | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC1(CCC(C=C13)=O)CCF | C23H21FN2O
